US07312226B2
N-Pyrimidin-2-yl-4-thioformylamino-benzenesulfonamide chloride (1d)
To a stirred solution of sulfadiazine (192 mg, 0.77 mmol) in dichloromethane (20 mL) were slowly added thiophosgene (0.06 mL, 0.83 mmol) and triethylamine (0.05 mL, 0.32 mmol) under cooling with an ice bath. After the reaction mixture was stirred for 5 hours at room temperature, it was washed with water and brine, dried over anhydrous sodium sulfate, filtered, evaporated and dried under vacuum; and the product was used immediately for the next reaction.

reactant | sulfadiazine | 0.77 mmol, 192 mg | C=1C=NC(=NC1)NS(=O)(=O)C=2C=CC(=CC2)N | C10H10N4O2S
reactant | thiophosgene | 0.83 mmol, 0.06 mL | C(=S)(Cl)Cl | CCl2S
reactant | triethylamine | 0.32 mmol, 0.05 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | N-Pyrimidin-2-yl-4-thioformylamino-benzenesulfonamide chloride | [Cl-].N1=C(N=CC=C1)NS(=O)(=O)C1=CC=C(C=C1)NC=S | InChI=1S/C11H10N4O2S2.ClH/c16-19(17,15-11-12-6-1-7-13-11)10-4-2-9(3-5-10)14-8-18;/h1-8H,(H,14,18)(H,12,13,15);1H/p-1
